US05506267
(4-(6,7-bis(myristyloxy)-4-thiaheptanoylamino)benzoyl)glutamic acid di-t-butyl ester
To a solution of (4-(6,7-dihydroxy-4-thiaheptanoylamino)benzoyl)glutamic acid di-t-butyl ester as obtained in Reference Example 6 (50 mg) in chloroform (1 ml), triethylarnine (0.258 ml), myristyl chloride (0.196 ml) and dimethylaminopyridine (1 mg) were added, followed by stirring at room temperature for 24 hours. After addition of water, the reaction mixture was extracted with ethyl acetate. The extract was washed with a 5% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogen carbonate and saturated saline, and dried over anhydrous sodium sulfate, and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to yield the title compound (76 mg, yield 85%) as a wax-like substance.

reactant | (4-(6,7-dihydroxy-4-thiaheptanoylamino)benzoyl)glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(CO)O)=O)=O)CCC(=O)OC(C)(C)C)=O | C26H40N2O8S
reactant | dimethylaminopyridine | 1 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | water | O | H2O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylarnine | 0.258 ml | C(C)N(CC)CC | C6H15N
solvent | myristyl chloride | 0.196 ml | C(CCCCCCCCCCCCC)Cl | C14H29Cl
product | (4-(6,7-bis(myristyloxy)-4-thiaheptanoylamino)benzoyl)glutamic acid di-t-butyl ester | 76 mg, yield 85% | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COCCCCCCCCCCCCCC)OCCCCCCCCCCCCCC)=O)=O)CCC(=O)OC(C)(C)C)=O | C54H96N2O8S
